US08957203B2
To a solution of 1-chloro-7-fluoro-5-methoxyisoquinoline (350 mg, 1.654 mmol) in DMSO (3 mL), was added CsF (502 mg, 3.31 mmol) and the mixture was heated to 140° C. for 4 h. The reaction was diluted with EtOAc and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give 1,7-difluoro-5-methoxyisoquinoline (340 mg, 105% yield) which was not purified further. MS m/z 196.1 (M++1).

reactant | 1-chloro-7-fluoro-5-methoxyisoquinoline | 1.654 mmol, 350 mg | ClC1=NC=CC2=C(C=C(C=C12)F)OC | C10H7ClFNO
reactant | CsF | 3.31 mmol, 502 mg | [F-].[Cs+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,7-difluoro-5-methoxyisoquinoline | 340 mg, 105% yield | FC1=NC=CC2=C(C=C(C=C12)F)OC | C10H7F2NO
